US07893056B2
(2R)-3-Cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (0.238 g, 0.78 mmol), 2-chloro-5-fluoro-6-{[2-methyl-2-(4-morpholinyl)propyl]amino}-4(1H)-pyrimidinone hydrazone (0.249 g), NMM (0.26 mL, 2.35 mmol), HOAt (0.106 g, 0.78 mmol), EDC (0.150 g, 0.78 mmol) and DMF (4 mL) were combined, and the solution was stirred overnight. Purification by RP-HPLC provided [(2R)-3-[2-(2-chloro-5-fluoro-6-{[2-methyl-2-(4-morpholinyl)propyl]amino}-4-pyrimidinyl)hydrazino]-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide as a brown oil (0.169 g). LCMS: (M+H)+=606.3.

reactant | (2R)-3-Cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 0.78 mmol, 0.238 g | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | 2-chloro-5-fluoro-6-{[2-methyl-2-(4-morpholinyl)propyl]amino}-4(1H)-pyrimidinone hydrazone | 0.249 g | ClC=1NC(=C(C(N1)=NN)F)NCC(C)(N1CCOCC1)C | C12H20ClFN6O
reactant | NMM | 2.35 mmol, 0.26 mL | CN1CCOCC1 | C5H11NO
reactant | HOAt | 0.78 mmol, 0.106 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 0.78 mmol, 0.150 g
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | [(2R)-3-[2-(2-chloro-5-fluoro-6-{[2-methyl-2-(4-morpholinyl)propyl]amino}-4-pyrimidinyl)hydrazino]-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 0.169 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)NCC(C)(N1CCOCC1)C | C29H41ClFN7O4
